US07163947B2
A solution of 1-amino-3,3-diethoxypropane (5.00 mL, 30.9 mmol) in 5 mL of tetrahydrofuran (THF) was treated with triethylamine (4.51 mL, 34.0 mmol) under an atmosphere of nitrogen and cooled to 0° C. The reaction mixture was then treated dropwise with a solution of di-tert-butyl dicarbonate (7.42 g, 34.0 mmol) in 25 mL of THF. The reaction mixture was stirred for 2 h at 0° C. and then allowed to come to room temperature. After 15 h, the reaction mixture was concentrated under reduced pressure, dissolved in ethyl acetate, washed with water (2×) and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield tert-butyl (3,3-diethoxypropyl)carbamate (8.40 g) as a clear, faintly yellow oil.

reactant | 1-amino-3,3-diethoxypropane | 30.9 mmol, 5.00 mL | NCCC(OCC)OCC | C7H17NO2
reactant | triethylamine | 34.0 mmol, 4.51 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 34.0 mmol, 7.42 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | THF | 25 mL | O1CCCC1 | C4H8O
product | tert-butyl (3,3-diethoxypropyl)carbamate | 8.40 g | C(C)OC(CCNC(OC(C)(C)C)=O)OCC | C12H25NO4
